US06395905B1
Step 3: Methyl-(2-{4-[(4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carbonyl)-amino]phenyl}ethyl)-carbamic acid isobutyl ester
A suspension of 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid (200 mg, 1.1 mmol) in isobutyl chloroformate (10 mL) was treated with Et3N (0.46 mL, 3.3 mmol) portionwise at room temperature. After 30 min. further Et3N (0.46 mL, 3.3 mmol) was added and the mixture stirred for 30 min. The mixture was evaporated and residue suspended in 1,2-DCE (15 mL). The foregoing amine (0.37 g, 1.7 mmol) added and the solution was heated at reflux for 6 h. The solvent was evaporated, the residue suspended in EtOH (1.5 mL) and then treated with 4N NaOH (5 mL). The mixture was heated at reflux for 1 h. Water (50 mL) was added to the cooled mixture, the aqueous phase extracted with 10% MeOH/DCM (×3) and the combined organic layers dried (MgSO4) and evaporated. The residue was purified by silica plug chromatography, using MeOH:DCM (6:94) as eluent, to give title compound (250 mg, 54%) a cream solid. 1H NMR (400 MHz, CDCl3) δ0.94 (6H, d, J=6.4), 1.88-1.98 (2H, m), 2.19-2.27 (2H, m), 2.7 (2H, t, J=6.1 Hz), 2.77-2.92 (5H, m), 2.98 (2H, t, J=5.8 Hz), 3.40-3.51 (2H, m), 3.85 (2H, d, J=6.44 Hz), 7.18-7.26 (2H, m), 7.74 (2H, d, J=7.9 Hz), 11.30 (1H, br, s), 12.26 (1H, s). MS, (CI)+413 (M+H)+.

reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid | 1.1 mmol, 200 mg | O=C1C=2C(=NNC2CCC1)C(=O)O | C8H8N2O3
reactant | Et3N | 3.3 mmol, 0.46 mL | CCN(CC)CC | C6H15N
reactant | Et3N | 3.3 mmol, 0.46 mL | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 10 mL | ClC(=O)OCC(C)C | C5H9ClO2
product | Methyl-(2-{4-[(4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carbonyl)-amino]phenyl}ethyl)-carbamic acid isobutyl ester | 250 mg, 54% | C(C(C)C)OC(N(CCC1=CC=C(C=C1)NC(=O)C1=NNC=2CCCC(C12)=O)C)=O | C22H28N4O4
